US07189850B2
a) (rac, trans) 8-(2-Hydroxy-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound was prepared from cyclohexene oxide and 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one in analogy of the procedure described for the synthesis of (rac,trans)-8-(2-hydroxy-cyclohexyl)-1-(3-methyl-butyl)-1,3,8-triaza-spiro[4.5]decan-4-one (Example 73c). (rac,trans) 8-(2-Hydroxy-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one was obtained as colorless solid, MS (ISP): 330.3 MH+.

reactant | cyclohexene oxide | C12C(CCCC1)O2 | C6H10O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 8-(2-Hydroxy-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | OC1C(CCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C19H27N3O2
